US05238938
Synthesis of 1-hydroxy-6-(indol-3-yl)methyl-3-methyl-1,2,5,6-tetrahydropyrazin 2,5-dione (Compound A-55)
In 5 ml of tetramethylurea was dissolved 0.22 g of 2-hydroxylamino-3-(indol-3-yl)propionic acid amide. The solution was cooled to -5° to 0° C. Thereto was added 0.1 g of pyruvic acid chloride. Then, there was added 1 ml of a tetramethylurea solution containing 90 mg of pyridine. The mixture was stirred for 1.5 hours with ice cooling and for 1 hour at room temperature. The mixture was poured into ice water. The resulting mixture was subjected to extraction with CHCL3. The extract was washed with water, dried over magnesium sulfate, and subjected to TLC (methanol/CH2Cl2 =1/10). The fraction separated was heated for 10-20 minutes at 80° C. under vacuum. The residue was mixed with methanol for crystallization. The resulting crystals were recrystallized from methanol to obtain 40 mg of colorless needle-like cyrstals. Yield: 15%. MS (m/e):M30 271. Melting point: 166°-168° C.

reactant | 2-hydroxylamino-3-(indol-3-yl)propionic acid amide | 0.22 g | ONC(C(=O)N)CC1=CNC2=CC=CC=C12 | C11H13N3O2
reactant | pyruvic acid chloride | 0.1 g | C(C(=O)C)(=O)Cl | C3H3ClO2
reactant | pyridine | 90 mg | N1=CC=CC=C1 | C5H5N
solvent | tetramethylurea | 5 ml | CN(C(N(C)C)=O)C | C5H12N2O
solvent | tetramethylurea | 1 ml | CN(C(N(C)C)=O)C | C5H12N2O
product | 1-hydroxy-6-(indol-3-yl)methyl-3-methyl-1,2,5,6-tetrahydropyrazin 2,5-dione | 40 mg, Yield: 15% | ON1C(C(=NC(C1CC1=CNC2=CC=CC=C12)=O)C)=O | C14H13N3O3
